US07342118B2
3-(4-Nitro-imidazol-1-yl)-butyric acid methyl ester
4-nitroimidazole was reacted with methyl-3-methylacrylate to provide the title compound: 1H NMR (400 MHz, CDCl3) 1.62 (d, 3H, J=7.0 Hz), 2.81 (d, 2H, J=7.0 Hz), 3.66 (s, 3H), 4.78 (m, 1H), 7.53 (d, 1H, J=1.6 Hz), 7.82 (d, 1H, J=1.6 Hz); MS m/z 214.1(M+1).

reactant | 4-nitroimidazole | [N+](=O)([O-])C=1N=CNC1 | C3H3N3O2
reactant | methyl-3-methylacrylate | COC(C=CC)=O | C5H8O2
product | 3-(4-Nitro-imidazol-1-yl)-butyric acid methyl ester | COC(CC(C)N1C=NC(=C1)[N+](=O)[O-])=O | C8H11N3O4
